US04985582
5-Benzylthiomethyl-5-t-butyl-2,2-dimethyl-1,3-dioxane (7.0 g.) and Dowex 50×8-200 ion exchange resin (H+ form) (0.6 g.) in methanol (100 ml.) containing water (10 ml.) was refluxed, with stirring, for 3 hours. The mixture was filtered and the filtrate was evaporated in vacuo. 2-Benzylthiomethyl-2-hydroxymethyl-3,3-dimethyl-butan-1-ol was obtained as a colourless oil (5.0 g.) and was used without further purification.

reactant | 5-Benzylthiomethyl-5-t-butyl-2,2-dimethyl-1,3-dioxane | 7.0 g | C(C1=CC=CC=C1)SCC1(COC(OC1)(C)C)C(C)(C)C | C18H28O2S
reactant | water | 10 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | 2-Benzylthiomethyl-2-hydroxymethyl-3,3-dimethyl-butan-1-ol | C(C1=CC=CC=C1)SCC(CO)(C(C)(C)C)CO | C15H24O2S
